Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Shellfish / Beta-Adrenergic Blocking Agents
 
Attending: ___.
 
Chief Complaint:
Morbid obesity
 
Major Surgical or Invasive Procedure:
Status Post Laparoscopic Gastric Bypass

 
History of Present Illness:
Mr. ___ is a ___ gentleman with
longstanding morbid obesity refractory to attempts at weight
loss by nonoperative means. His preoperative weight is 247
pounds. Given his height, this translates to a body mass
index of 36.5 kg/m2. Co-morbidities include obstructive sleep
apnea, hypertension, hyperlipidemia. He was evaluated by our
Multidisciplinary Bariatric Service and deemed a suitable
candidate accordance with ___ Health consensus
statement. Surgical options including Lap-Band, sleeve
gastrectomy, gastric bypass were discussed. He understood the
potential risks, as well as expected outcomes and wished to
proceed with a gastric bypass.

 
Past Medical History:
traumatic brain injury s/p
MVA in ___ with being comatose for one month requiring
multiple surgeries including neurosurgical decompression,
abdominal surgery, orthopedic repair of knees and ankles and 
skin
grafts, struck by car as pedestrian in ___, history of
intracranial bleed with right hemiparesis, chronic ___ syndrome
involving left shoulder, back, left knee with recurrent 
effusions
requiring aspiration (had LS-spine MRI ___ with L4-L5 disk
protrusion impinging on right L5) followed in the ___, migraine headaches, history of left shin and left foot
skin ulcerations, hypertension, hyperlipidemia, moderate-to-
severe obstructive sleep disorder breathing (___) with
recommendation of CPAP at 16, heartburn, iron deficiency,
peripheral neuropathy with abnormal EMG study ___ consistent
with chronic axonal neuropathy affecting the deep peroneal, 
sural
and plantar nerves on the left, history of urinary stress
incontinence and urinary tract infections.

 
Social History:
___
Family History:
No family history of IBD or colon cancer.
 
Physical Exam:
On day of discharge
T max:99.3 T current:97.9 HR:78 BP: 128/76 RR: 20 O2 
saturation:97% RA
No acute distress
Regular rate and rhythm, no murmurs/rubs/gallops
Lungs clear to auscultation bilaterally
Abdomen soft non-tender non-distended. incisions c/d/i. No 
drainage.
Extremities: well-healed extremity scars from previous 
reconstructive surgeries
 
Pertinent Results:
Upper Gi Study: ___

No evidence of leak. Very tight proximal anastomotic stenosis 
likely due to edema from recent surgery. Contrast has passed 
through, 
however, very slowly. Recommend keeping patient upright with 
followup KUB 

 
Brief Hospital Course:
  Mr. ___ was admitted to the ___ surgery service under 
Dr. ___ a ___ Roux-en-Y gastric bypass 
and endoscopy. He tolerated the procedure very well.

Neuro: Post-operatively, the patient received Dilaudid IV/PCA 
with good effect and adequate ___ control. When tolerating 
Stage I diet, the patient was transitioned to oral Roxicet 
elixir with adequate ___ control. 

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored. He used a CPAP machine at 
night for his obstructive sleep apnea. 
 
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. He had an Upper GI series which showed:
"No evidence of leak. Very tight proximal anastomotic stenosis 
likely due to edema from recent surgery. Contrast has passed 
through, however, very slowly."  

Per radiology recommendations, a f/u KUB was ordered which 
showed:
"Clearance of barium from the gastric pouch. Barium is seen 
distally in the small bowel. . ." 
 
As a result of these two studies his diet was advanced to Stage 
I which he tolerated with out issue. He was later advanced from 
stage I to stage II and then stage III when appropriate. He 
tolerated his dietary advancement without issue and reported 
passage of flatus on multiple occasions. 

His Foley was removed on POD#2. Intake and output were closely 
monitored. He was able to void without problems.

ID: Post-operatively, the patient was given ___ IV 
cefazolin. The patient's temperature was closely watched for 
signs of infection. 

Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 

Physical therapy:
Given his know physical limitations, a physical therapy consult 
was ordered to ensure the patient could be safely discharged to 
home. During his first session, he was not able to ambulate at 
his usual baseline and a rehab screen was begun. during 
subsequent sessions the patient did have rapid improvement with 
his ambulation and was able to ambulate at his baseline level.  

Nutrition: 
The patient received extensive reading material regarding his 
new dietary restrictions and general recommendations. He 
expressed a desire to be compliant with his new diet and read 
the materials provided. In addition, the ___ nurse 
practitioner provided multiple counseling sessions regarding the 
dietary recommendations and general post-operative instructions. 
The patient demonstrated improvement in his understanding of his 
post-operative course. In addition, his sister was provided with 
a list of foods that the patient should have at home at the time 
of discharge. 

At the time of discharge the patient was hemodynamically stable, 
tolerating stage III diet, ___ was well controlled, he was 
voiding without issue, ambulating at his baseline.  

Follow up with the ___ clinic will start next week with an 
additional counseling session with bariatric dietician. He will 
be followed very closely to ensure understanding of his new 
diet. 

 
Medications on Admission:
Lisinopril 5 mg daily for hypertension;
codeine sulfate 30 mg tablets one to two every 8 hours as 
needed,
oxycodone 5 mg as needed for chronic ___ 
baby aspirin 81 mg daily for prophylaxis; 
Loratadine 10 mg daily as needed for seasonal allergies; 
miconazole 2% cream and Lamisil 1% spray for
fungal infection (athlete's foot); 
multivitamins with minerals daily, 
vitamin D 1000 units daily and 
omega-3-B12-FA-B6 Phytosterol daily for nutritional 
supplementation.

 
Discharge Medications:
1. Roxicet ___ mg/5 mL Solution Sig: ___ ml PO every four (4) 
hours as needed for ___.
Disp:*500 ml* Refills:*0*
2. Colace 50 mg/5 mL Liquid Sig: Ten (10) ml PO twice a day as 
needed for constipation.
Disp:*500 ml* Refills:*0*
3. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO once a day: 
Please crush.  
4. Actigall 300 mg Capsule Sig: One (1) Capsule PO twice a day: 
Please take this medication for 6 months. You ___ open capsule 
and place in drink.
Disp:*60 Capsule(s)* Refills:*5*
5. Zantac 15 mg/mL Syrup Sig: Ten (10) ml PO twice a day: Please 
take for one month.
Disp:*600 ml* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Obesity

 
Discharge Condition:
Stable

 
Discharge Instructions:
Discharge Instructions: Please call your surgeon or return to 
the emergency department if you develop a fever greater than 
101.5, chest ___, shortness of breath, severe abdominal ___, 
___ unrelieved by your ___ medication, severe nausea or 
vomiting, severe abdominal bloating, inability to eat or drink, 
foul smelling or colorful drainage from your incisions, redness 
or swelling around your incisions, or any other symptoms which 
are concerning to you.

Diet: Stay on Stage III diet until your follow up appointment. 
Do not self advance
diet, do not drink out of a straw or chew gum.

Medication Instructions:
Resume your home medications, CRUSH ALL PILLS.
You will be starting some new medications:
1.  You are being discharged on medications to treat the ___ 
from your operation. These medications will make you drowsy and 
impair your ability to drive a motor vehicle or operate 
machinery safely. You MUST refrain from such activities while 
taking these medications.
2. You should begin taking a chewable complete multivitamin with 
minerals. No gummy vitamins.
3. You will be taking Zantac liquid ___ mg twice daily for one 
month. This medicine prevents gastric reflux.
4. You will be taking Actigall 300 mg twice daily for 6 months. 
This medicine prevents you from having problems with your 
gallbladder.
5. You should take a stool softener, Colace, twice daily for 
constipation as needed, or until you resume a normal bowel 
pattern.
6. You must not use NSAIDS (non-steroidal anti-inflammatory 
drugs) Examples are Ibuprofen, Motrin, Aleve, Nuprin and 
Naproxen. These agents will cause bleeding and ulcers in your 
digestive system.

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You ___ 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You ___ shower, no tub baths or swimming. 
If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased ___, swelling, 
redness, or drainage from the incision sites. 

 
Followup Instructions:
___